US04145433
(5) Preparation of [5-[(Benzyl)sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester
To 3.34 g (14.5 mMol) of 4-(benzyl)sulfinyl-1,2-diaminobenzene in 35 ml methanol and 0.84 ml acetic acid is added 3.11 g (16 mMol) 1,3-bis(methoxycarbonyl)-S-methyl isothiourea, and the resulting solution heated to reflux for 3 hours. The solvent is removed in vacuo, the solid digested with water and filtered and washed with ether. The resulting solid is recrystallized from ethanol to yield the title compound.

reactant | 4-(benzyl)sulfinyl-1,2-diaminobenzene | 14.5 mMol, 3.34 g | C(C1=CC=CC=C1)S(=O)C1=CC(=C(C=C1)N)N | C13H14N2OS
reactant | 1,3-bis(methoxycarbonyl)-S-methyl isothiourea | 16 mMol, 3.11 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | methanol | 35 ml | CO | CH4O
solvent | acetic acid | 0.84 ml | C(C)(=O)O | C2H4O2
product | [5-[(Benzyl)sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester | C(C1=CC=CC=C1)S(=O)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1 | C16H15N3O3S
